US08247401B2
Step C: methyl 3-bromo-5-(5-chloropyridin-2-yl)benzoate
To a solution of methyl 3-bromo-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate (0.10 g, 0.29 mmol) in DMF (1.5 mL) and water (0.49 mL) were added 2-bromo-5-chloropyridine (0.17 g, 0.88 mmol), palladium(II) aceate (3.3 mg, 0.015 mmol), 3,3′3″-phosphinidynetris(benzenesulfonic acid)trisodium salt (25.0 mg, 0.044 mmol) and diisopropylamine (0.10 mL, 0.73 mmol). The mixture was heated to 80° C. After 1 h, the mixture was filtered and the filtrate was purified by reverse phase chromatography (C-18, 85% water/acetonitrile→5% water/acetonitrile with 0.1% trifluoroacetic acid) gave the title compound (78 mg). MS 326.0 (M).

reactant | methyl 3-bromo-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 0.29 mmol, 0.10 g | BrC=1C=C(C(=O)OC)C=C(C1)B1OC(C(O1)(C)C)(C)C | C14H18BBrO4
reactant | 2-bromo-5-chloropyridine | 0.88 mmol, 0.17 g | BrC1=NC=C(C=C1)Cl | C5H3BrClN
reactant | 3,3′3″-phosphinidynetris(benzenesulfonic acid)trisodium salt | 0.044 mmol, 25.0 mg | C1=CC(=CC(=C1)S(=O)(=O)[O-])P(C2=CC(=CC=C2)S(=O)(=O)[O-])C3=CC(=CC=C3)S(=O)(=O)[O-].[Na+].[Na+].[Na+]
reactant | diisopropylamine | 0.73 mmol, 0.10 mL | C(C)(C)NC(C)C | C6H15N
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | water | 0.49 mL | O | H2O
catalyst | palladium(II) aceate | 0.015 mmol, 3.3 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | methyl 3-bromo-5-(5-chloropyridin-2-yl)benzoate | 78 mg | BrC=1C=C(C(=O)OC)C=C(C1)C1=NC=C(C=C1)Cl | C13H9BrClNO2
